US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1 g) is alkylated using butyl iodide (1.8 ml; 15.4 mmol) and K2CO3 (2.1 g; 15.2 mmol) at RT for 20 h. After aqueous work-up and flash chromatography on silica gel eluting with CH2Cl2/MeOH (30:1) the alkylated acetamide (0.94 g; 2.93 mmol) is de-acetylated under reflux conditions in 2-propanol (3 ml) and hydrochloric acid (6 N; 11 ml). Pure 5-amino-1-butyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (0.64 g) is obtained by flash chromatography on silica gel eluted with CH2Cl2/MeOH (50:1).

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | butyl iodide | 15.4 mmol, 1.8 ml | C(CCC)I | C4H9I
reactant | K2CO3 | 15.2 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | hydrochloric acid | 6 N, 11 ml | Cl | ClH
product | 5-amino-1-butyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 0.64 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CCCC)=O)(C)C | C14H19N3O3
